US04154850
A mixture of 1-(4-chlorophenoxy)-13-tridecanol (3.27 g.; 0.01 M.), ethyl 4-hydroxybenzoate (2.49 g.; 0.015 M) and dicyclohexylcarbondiimide (3.09 g.; 0.015 M.) was heated at 100°-105° C. for 5 hours with stirring. The reaction mixture was cooled to room temperature, dichloromethane was added and the mixture was filtered. The filtrate was evaporated to dryness under reduced pressure and the crude product (5.95 g.) was chromatographed on silica-gel (250 g.) in dichloromethane to give 1-(4-ethoxycarbonylphenoxy)-13-(4-chlorophenoxy)-tridecane (1.82 g.; 38%). M.P. 75°-7° C.

reactant | 1-(4-chlorophenoxy)-13-tridecanol | 0.01 M, 3.27 g | ClC1=CC=C(OCCCCCCCCCCCCCO)C=C1 | C19H31ClO2
reactant | ethyl 4-hydroxybenzoate | 0.015 M, 2.49 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-ethoxycarbonylphenoxy)-13-(4-chlorophenoxy)-tridecane | 1.82 g, 38% | C(C)OC(=O)C1=CC=C(OCCCCCCCCCCCCCOC2=CC=C(C=C2)Cl)C=C1 | C28H39ClO4
